US06627651B1
A mixture of methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (400 mg), 2-chlorobenzyl chloride (0.25 ml), potassium carbonate (309 mg) and DMF (10 ml) was stirred at 60° C. for 5 hours. The reaction mixture was mixed with water and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the residue was subjected to separation and purification using column chromatography (ethyl acetate/hexane 1:2) to obtain methyl 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (413 mg) as colorless crystals.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 400 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 2-chlorobenzyl chloride | 0.25 ml | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | potassium carbonate | 309 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 7-[(2-chlorobenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 413 mg | ClC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC=C1 | C19H17ClO5S
